US09370515B2
Preparation of 6-chloro-3-(thiophen-3-yl)imidazo[1,2-b]pyridazine
To a solution of 6-chloroimidazo[1,2-b]pyridazine (200 mg, 1.30 mmol, 1.0 equiv) in toluene (5.00 mL) was added 3-bromothiophene (0.18 mL, 1.95 mmol, 1.5 equiv), potassium carbonate (360 mg, 2.60 mmol, 2.0 equiv), triphenyl phosphine (68 mg, 0.260 mmol, 0.20 equiv) and potassium acetate (29 mg, 0.130 mmol, 0.1 equiv). The reaction mixture was heated to reflux for 24 h. Purification by column chromatography using 50% ethyl acetate in hexanes elution gave 201 mg of the white solid, 85%.

reactant | 6-chloroimidazo[1,2-b]pyridazine | 1.30 mmol, 200 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | 3-bromothiophene | 1.95 mmol, 0.18 mL, 1.5 equiv | BrC1=CSC=C1 | C4H3BrS
reactant | potassium carbonate | 2.60 mmol, 360 mg, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | triphenyl phosphine | 0.260 mmol, 68 mg, 0.20 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 0.130 mmol, 29 mg, 0.1 equiv | C(C)(=O)[O-].[K+]
solvent | toluene | 5.00 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-3-(thiophen-3-yl)imidazo[1,2-b]pyridazine | 201 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CSC=C2 | C10H6ClN3S
